US03975375
C. 1-Formyl-2-oxo-1,3-diaza-cyclohexane ##SPC91##
The mixture of 10 parts by weight of 1,3-diaza-cyclohexane-2-one, 49 parts by weight of trimethylchlorosilane, 25 parts by weight of triethylamine and 150 parts by volume of dioxane were boiled for 3 days with stirring and exclusion of moisture, then filtered, evaporated to 50 parts by volume in vacuo and stirred overnight with 11.5 parts by volume of formic acid-acetic acid anhydride. The mixture was evaporated to dryness in vacuo, and the residue was recrystallized from ethanol/ether.

reactant | 1,3-diaza-cyclohexane-2-one | N1C(NCCC1)=O | C4H8N2O
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 1-Formyl-2-oxo-1,3-diaza-cyclohexane | C(=O)N1C(NCCC1)=O | C5H8N2O2
